US05464811
Methyl N-(2-fluoro-4-chloro-hydroxyphenyl)carbamate (2.03 g, 9.23 mmol), cyclohexyl p-toluenesulfonate (2.51 g, 9.85 mmol) and N,N-dimethylformamide (30 ml) were charged into a 100 cc round-bottom flask, and then potassium hydroxide (1.0 g, 17.8 mmol) in a powder form was added thereto. The mixture was stirred for 4 hours on an oil bath at 80° C. After completion of the reaction, the reaction solution was cooled to room temperature, 1N hydrochloric acid (100 ml) was added thereto, and the mixture was extracted with ethyl acetate (20 ml×8). The organic layers were combined, washed with water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off under reduced pressure to obtain a crude product. The product was isolated and purified by silica gel column chromatography (development solvent: hexane/ethyl acetate=9/1) to obtain 2-fluoro-4-chloro-5-cyclohexyloxyaniline (574 mg, 2.36 mmol, 26% yield) and the unreacted starting material, methyl N-(2-fluoro-4-chloro-5-hydroxyphenyl)carbamate (1.22 g, 5.54 mmol, 60% recovery ratio). The spectral data and the like are as shown in Reference Example 11.

reactant | Methyl N-(2-fluoro-4-chloro-hydroxyphenyl)carbamate | 9.23 mmol, 2.03 g | FC1=C(C=CC(=C1O)Cl)NC(OC)=O | C8H7ClFNO3
reactant | cyclohexyl p-toluenesulfonate | 9.85 mmol, 2.51 g | C1(=CC=C(C=C1)S(=O)(=O)OC1CCCCC1)C | C13H18O3S
reactant | potassium hydroxide | 17.8 mmol, 1.0 g | [OH-].[K+]
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-fluoro-4-chloro-5-cyclohexyloxyaniline | 2.36 mmol, 574 mg, 26% yield | FC1=C(N)C=C(C(=C1)Cl)OC1CCCCC1 | C12H15ClFNO
